US09290460B2
1-(3-(4-(Pyridin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione
1-(3-carboxybenzyl)quinazoline-2,4(1H,3H)-dione (0.2 mmol), 1-(pyridin-2-yl)piperazine (0.2 mmol), 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 0.26 mmol), N,N-diisopropylethylamine (DIPEA, 0.4 mmol) and DMF (5 mL) were added into a 50 mL two-mouth flask. The obtained mixture was stirred at room temperature for 3 hours. To the mixture was added 50 mL of water and it was extracted by dichloromethane (DCM, 50 mL×2). The organic layer was washed by 1N HCl (50 mL×2) and saturated NaCl aquenous solution (50 mL×2), dried with anhydrous sodium sulphate, and evaporated under reduced pressure to give the crude product. The crude product was purified by column chromatography (ethyl acetate) to give the title compound as white solid (7.7 mg, 8.6% yield). 1H NMR (DMSO-d6): 11.69 (s, 1H), 8.09 (dd, J=5.0 and 1.7 Hz, 1H), 7.99 (dd, J=8.0 and 1.7 Hz, 1H), 7.64 (t, J=7.1 Hz, 1H), 7.53 (t, J=7.8 Hz, 1H), 7.40-7.21 (m, 6H), 6.77 (d, J=8.7 Hz, 1H), 6.64 (dd, J=7.1 and 5.0 Hz, 1H), 5.34 (s, 2H), 3.40-3.20 (m, 8H). MS: m/z 442.3 [M+H]+.

reactant | 1-(3-carboxybenzyl)quinazoline-2,4(1H,3H)-dione | 0.2 mmol | C(=O)(O)C=1C=C(CN2C(NC(C3=CC=CC=C23)=O)=O)C=CC1 | C16H12N2O4
reactant | 1-(pyridin-2-yl)piperazine | 0.2 mmol | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.26 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.4 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | 50 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(3-(4-(Pyridin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione | 7.7 mg, 8.6% yield | N1=C(C=CC=C1)N1CCN(CC1)C(=O)C=1C=C(CN2C(NC(C3=CC=CC=C23)=O)=O)C=CC1 | C25H23N5O3
